US03937704
[(6-Chloro-1,4-dihydro-1-methyl-4-oxo-3-cinnolinyl)thio]methanol acetate.
A mixture of 8 g of 6-chloro-1-methyl-3-(methylsulfinyl)-4(1H) cinnolinone and 30 ml of acetic anhydride was refluxed for 21/2 hrs. The resulting solution was allowed to stand at room temperature overnight. The crystalline precipitate was filtered off, washed with Skelly B, and recrystallized from CH3CN, mp. 191°-92°; yield 6 g (65%).

reactant | 6-chloro-1-methyl-3-(methylsulfinyl)-4(1H) cinnolinone | 8 g | ClC=1C=C2C(C(=NN(C2=CC1)C)S(=O)C)=O | C10H9ClN2O2S
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | [(6-Chloro-1,4-dihydro-1-methyl-4-oxo-3-cinnolinyl)thio]methanol acetate | C(C)(=O)OCSC1=NN(C2=CC=C(C=C2C1=O)Cl)C | C12H11ClN2O3S
